US07678795B2
3-(4-Chloro-2-methyl-phenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[c]pyridazine
light brown solid. MS (EI): 272.2 (M+). Prepared from cycloheptane-1,2-dione, [2-(4-Chloro-2-methyl-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | cycloheptane-1,2-dione | C1(C(CCCCC1)=O)=O | C7H10O2
reactant | [2-(4-Chloro-2-methyl-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(=O)C1=C(C=C(C=C1)Cl)C | C11H14ClO4P
reactant | hydrazine monohydrate | O.NN
product | 3-(4-Chloro-2-methyl-phenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[c]pyridazine | ClC1=CC(=C(C=C1)C1=CC2=C(N=N1)CCCCC2)C | C16H17ClN2
